.subckt sky130_fd_sc_hd__dfxtp_2 CLK D VGND VNB VPB VPWR Q
X0 a_891_413# a_193_47# a_975_413# VPB sky130_fd_pr__pfet_01v8_hvt w=420000u l=150000u
X1 a_1059_315# a_891_413# VGND VNB sky130_fd_pr__nfet_01v8 w=650000u l=150000u
X2 a_466_413# a_27_47# a_561_413# VPB sky130_fd_pr__pfet_01v8_hvt w=420000u l=150000u
X3 a_634_159# a_27_47# a_891_413# VPB sky130_fd_pr__pfet_01v8_hvt w=420000u l=150000u
X4 a_381_47# a_193_47# a_466_413# VPB sky130_fd_pr__pfet_01v8_hvt w=420000u l=150000u
X5 VPWR D a_381_47# VPB sky130_fd_pr__pfet_01v8_hvt w=420000u l=150000u
X6 VPWR a_466_413# a_634_159# VPB sky130_fd_pr__pfet_01v8_hvt w=750000u l=150000u
X7 VGND a_466_413# a_634_159# VNB sky130_fd_pr__nfet_01v8 w=640000u l=150000u
X8 a_1017_47# a_1059_315# VGND VNB sky130_fd_pr__nfet_01v8 w=420000u l=150000u
X9 a_1059_315# a_891_413# VPWR VPB sky130_fd_pr__pfet_01v8_hvt w=1e+06u l=150000u
X10 Q a_1059_315# VPWR VPB sky130_fd_pr__pfet_01v8_hvt w=1e+06u l=150000u
X11 a_561_413# a_634_159# VPWR VPB sky130_fd_pr__pfet_01v8_hvt w=420000u l=150000u
X12 VPWR a_1059_315# Q VPB sky130_fd_pr__pfet_01v8_hvt w=1e+06u l=150000u
X13 a_891_413# a_27_47# a_1017_47# VNB sky130_fd_pr__special_nfet_01v8 w=360000u l=150000u
X14 a_634_159# a_193_47# a_891_413# VNB sky130_fd_pr__special_nfet_01v8 w=360000u l=150000u
X15 a_592_47# a_634_159# VGND VNB sky130_fd_pr__nfet_01v8 w=420000u l=150000u
X16 a_466_413# a_193_47# a_592_47# VNB sky130_fd_pr__special_nfet_01v8 w=360000u l=150000u
X17 VGND a_27_47# a_193_47# VNB sky130_fd_pr__nfet_01v8 w=420000u l=150000u
X18 a_381_47# a_27_47# a_466_413# VNB sky130_fd_pr__special_nfet_01v8 w=360000u l=150000u
X19 a_27_47# CLK VGND VNB sky130_fd_pr__nfet_01v8 w=420000u l=150000u
X20 a_27_47# CLK VPWR VPB sky130_fd_pr__pfet_01v8_hvt w=640000u l=150000u
X21 Q a_1059_315# VGND VNB sky130_fd_pr__nfet_01v8 w=650000u l=150000u
X22 VPWR a_27_47# a_193_47# VPB sky130_fd_pr__pfet_01v8_hvt w=640000u l=150000u
X23 VGND D a_381_47# VNB sky130_fd_pr__nfet_01v8 w=420000u l=150000u
X24 a_975_413# a_1059_315# VPWR VPB sky130_fd_pr__pfet_01v8_hvt w=420000u l=150000u
X25 VGND a_1059_315# Q VNB sky130_fd_pr__nfet_01v8 w=650000u l=150000u
.ends
